US05861402
B. Methyl 2-(2,6-dichlorophenylmethylidene)-3-oxo-5-phenylpentanoate
A mixture of methyl 3-oxo-5-phenylpentanoate (10 g, 48.5 mmol), 2,6-dichlorobenzaldehyde (8.486 g, 48.5 mmol), acetic acid (0.56 ml, 9.7 mmol), and piperidine (0.24 ml, 2.42 mmol) in benzene (100 ml) was refluxed with azeotropic removal of water for 3 h. After cooling down the mixture, the whole was washed with water, NaHCO3 aqueous solution, and brine. The mixture was dried over Na2SO4 and evaporation of the solvent afforded a crude viscous oil, which was used for subsequent reaction without purification. 1H NMR data indicated that this was 1:1 mixture of E and Z isomers. 1H NMR (CDCl3) δ 7.56 and 7.60 (each s, total 1H), 7.20 (m, 8H), 3.59 and 3.83 (each s, total 3H), 3.14-2.83 (m, 4H),.

reactant | methyl 3-oxo-5-phenylpentanoate | 48.5 mmol, 10 g | O=C(CC(=O)OC)CCC1=CC=CC=C1 | C12H14O3
reactant | 2,6-dichlorobenzaldehyde | 48.5 mmol, 8.486 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | acetic acid | 9.7 mmol, 0.56 ml | C(C)(=O)O | C2H4O2
reactant | piperidine | 2.42 mmol, 0.24 ml | N1CCCCC1 | C5H11N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | Methyl 2-(2,6-dichlorophenylmethylidene)-3-oxo-5-phenylpentanoate | ClC1=C(C(=CC=C1)Cl)C=C(C(=O)OC)C(CCC1=CC=CC=C1)=O | C19H16Cl2O3
